Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
bacon / bee venom protein (honey bee)
 
Attending: ___.
 
Chief Complaint:
Left Posterior Rib ___ Fractures, L4 transverse process 
fracture, L greater trochanter fracture 
 
Major Surgical or Invasive Procedure:
none 
 
History of Present Illness:
HPI: Mr. ___ is a ___ s/p fall from a 6ft ladder who presents 
from OSH with multiple fractures. Briefly, patient was cleaning 
his garage roof when he lost balance and fell from 6ft landing 
on his left side. Given significant left-sided rib pain and pain 
with deep inspiration, he presented to OSH where CT Torso 
demonstrated L posterior ___ rib fx, L4 transverse process 
fx, and L greater trochanteric fx without any significant 
intra-abdominal or intra-thoracic pathology. CT Head/C-spine 
were not performed at OSH as patient denied head strike/LOC or 
neck pain. He was transferred to ___ for further evaluation.

On arrival, patient was afebrile and hemodynamically stable. He 
complains only of excructiating L sided rib pain and some SOB 
___ rib pain, but denies back, hip, neck, or abdominal pain. He 
also denies HA, N/V, vision changes, CP.
 
 
Past Medical History:
Past Medical History:
1) testicular cancer (dx'd ___ years ago, s/p resection and 
chemo, in
remission)
2) HTN
3) anxiety
4) prior EtOH use d/o (sober for ___ years, on naltrexone for
cravings)
 

Past Surgical History:
1) s/p R testicular cancer removal and para-aortic LN dissection
2) s/p L rotator cuff repair x2
3) s/p repair of R meniscal tear
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
Physical Exam at admissions :
Vitals:  97.9  80  142/92  16   97% RA 
Gen: A&Ox3, somewhat uncomfortable-appearing male, in NAD
HEENT: No scleral icterus, no palpable LAD
Pulm: CTAB, no w/r/r
CV: NRRR, no m/r/g
Abd: soft, NT/ND, no rebound/guarding, no palpable masses
Back: no TTP along C/T/L spine, pelvis stable, significant TTP 
along L posterior chest wall/flank area without overlying 
crepitus
Ext: WWP bilaterally, no c/c/e, no ulcerations
Neuro: moves all limbs spontaneously, no focal deficits

Physical Exam at Discharge: 
Vitals: Temp 97.5, BP 157/99, HR 69,  RR 20, 95%Ra
HEENT: normocephalic, atraumatic
Pulm:  breathing comfortably on room air
CV: regular rate and rhythm
Abd: midline incision old intact without erythema 
Back: persistent tenderness over the left lower flank, decreased 
from day prior
Ext: warm, well, perfused 
Neuro: no gross deficits 
 
Pertinent Results:
Lab Results: 
___ 01:05AM BLOOD WBC-9.5 RBC-4.29* Hgb-13.9 Hct-39.9* 
MCV-93 MCH-32.4* MCHC-34.8 RDW-12.7 RDWSD-43.4 Plt ___
___ 01:05AM BLOOD Glucose-98 UreaN-8 Creat-0.8 Na-141 K-3.9 
Cl-104 HCO3-23 AnGap-18

Imaging Results: 
___ CT Abd OSH:  L posterior ___ rib fx, L4 transverse 
process fx
___ CXR Chest OSH : L posterior ___ rib fx
___ Hip HIP (UNILAT 2 VIEW) W/PELVIS: Cortical irregularity 
of the left greater trochanter could represent an avulsion 
fracture.  No other fracture or dislocation identified.

 
Brief Hospital Course:
Mr. ___ is a ___ year old male who was admitted to ___ 
___ after ___ fall from his garage roof. He was noted at the 
outside hospital to have multiple fractures including left 
posterior ___ rib fracture, L4 transverse process fracture, 
and a possible L greater trochanteric fracture without any 
significant intra-abdominal
or intra-thoracic pathology. His pain control was discussed with 
the acute pain service and his home naltrexone was held in the 
context of acute injury.  Of note, his naltrexone is used for 
curbing alcohol use disorder and not for prior opiod use. Risks 
and benefits of opiod use and discontinuing naltrexone was 
discussed with the acute pain service, acute care surgery 
service (primary team) and the patient. The musculoskeletal 
radiologist reviewed his hip films and determined there was a 
lesion in his greater trochanter of uncertain significance.  He 
was recommended to follow up with Dr. ___ orthopedic 
oncologist. The patient agreed to follow up with Dr. ___ and 
to discuss the lesion with his personal oncologist.  Mr. ___ 
was discharged in stable condition with 5 days of pain 
medication for his acute fracture and recommendations for 
follow-up.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Valsartan 320 mg PO DAILY 
2. Atenolol 50 mg PO DAILY 
3. Naltrexone 25 mg PO DAILY 
4. Doxepin HCl 50 mg PO HS 
5. Sertraline 200 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
Do not exceed 4000mg in 24 hours.   
2.  Docusate Sodium 100 mg PO BID  
3.  Ibuprofen 800 mg PO Q8H:PRN for pain as needed  
Only take as needed.   
4.  OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Alternating agents for 
similar severity
Take as needed. Do not take naltrexone with this med.  
RX *oxycodone 5 mg 5 MG by mouth 1 pill every ___ hours Disp 
#*25 Tablet Refills:*0 
5.  Atenolol 50 mg PO DAILY  
6.  Doxepin HCl 50 mg PO HS  
7.  Naltrexone 25 mg PO DAILY, further use to be discussed with 
his PCP  
8.  Sertraline 200 mg PO DAILY  
9.  Valsartan 320 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rib Fractures
Greater Trochanter Fracture 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the Acute Care Surgery-Trauma Service after 
a 6 foot fall from a ladder. Imaging demonstrated left posterior 
___ rib fracture, L4 transverse process fracture, and L 
greater trochanteric fracture without any significant 
intra-abdominal or intra-thoracic pathology. There is a lesion 
on your left greater trochanter for whose etiology cannot be 
determine, so we recommend further imaging with MRI as an 
outpatient. 

Rib Fractures:
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

YOUR BOWELS:
o Constipation is a common side effect of narcotic pain 
medications. If needed, you may take a stool softener (such as 
Colace, one capsule) or gentle laxative (such as milk of 
magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
o If you go 48 hours without a bowel movement, or have pain 
moving the bowels, call your surgeon. 

 
Followup Instructions:
___